Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Choledochal cyst with gallbladder
carcinoma.

 
Major Surgical or Invasive Procedure:
___ 
1. Laparoscopic robot-assisted cholecystectomy, complete
    resection of common bile duct, hilar lymph node
    dissection, Roux-en-Y hepaticojejunostomy.
2. Laparoscopic partial hepatectomy.
3. Placement of fiducials for radiation.

 
History of Present Illness:
___
man who presented with cholangitis to the ICU, at which time
a long distal biliary stricture was identified and an ERCP
stent was placed.  The patient was found to have extrahepatic
biliary ductal dilatation at the pancreatic head with a long,
anomalous pancreaticobiliary junction and a very dilated
cystic duct.  The gallbladder and cystic duct appeared to
contain intraluminal mass, although cytology has been
negative for carcinoma.  The patient is now taken to the
operating room for minimally invasive, robotic-assisted
resection of the gallbladder extrahepatic bile duct.

 
Past Medical History:
Autism  
HTN
?Gout  

 
Social History:
___
Family History:
 No known history of sudden cardiac death.

 
Pertinent Results:
___ 04:47AM BLOOD WBC-9.5 RBC-4.01* Hgb-10.9* Hct-34.2* 
MCV-85 MCH-27.2 MCHC-31.9* RDW-14.4 RDWSD-44.7 Plt ___
___ 04:47AM BLOOD ___ PTT-27.7 ___
___ 04:47AM BLOOD Glucose-114* UreaN-11 Creat-1.2 Na-140 
K-3.7 Cl-105 HCO3-22 AnGap-17
___ 09:00PM BLOOD ALT-120* AST-140* AlkPhos-91 TotBili-0.8
___ 04:47AM BLOOD ALT-77* AST-59* AlkPhos-214* TotBili-1.3
 
Brief Hospital Course:
On ___, he underwent  laparoscopic robot-assisted 
cholecystectomy, with complete resection of common bile duct, 
hilar lymph node dissection, Roux-en-Y hepaticojejunostomy, 
laparoscopic partial hepatectomy and placement of fiducials for 
radiation for choledochal cyst with gallbladder carcinoma. 
Surgeons were Drs ___ and ___. Please refer 
to operative notes for details. Immediately postop, the patient 
pulled out his NG. This was not replaced. He was kept npo until 
postop day 2 when sips were started. Over subsequent days, diet 
was advanced and tolerated. He was passing flatus and had 2 BMs 
on ___. 

JP drain output was non-bilious and decreased to 15cc/day. The 
JP was removed on ___.  LFTs increased mildly as expected 
postop.  The incision was intact without redness/drainage. 

Vital signs were notable for sinus tachycardia responice to IV 
metoprolol. This was later changed to his home dose of extended 
release metoprolol. Warfarin at home dose (5mg) was resumed for 
h/o afib. His PCP was contact to resume care of coumadin 
management. 

He was oob to chair with assist of one. ___ cleared him for home 
with rolling walker. He was ambulatory and appeared comfortable. 
He refused pain medication and was given intermittent doses of 
tylenol. 

He as ready for discharge on postop 5. Nightingale ___ was 
arranged. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Colchicine 0.6-1.2 mg PO BID:PRN pain 
2. Diazepam 5 mg PO QHS:PRN insomnia 
3. Pantoprazole 40 mg PO Q24H 
4. Warfarin 5 mg PO DAILY16 
5. Metoprolol Succinate XL 200 mg PO DAILY 

 
Discharge Medications:
1. Metoprolol Succinate XL 200 mg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Warfarin 5 mg PO DAILY16 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
6. Colchicine 0.6-1.2 mg PO BID:PRN pain 
7. Diazepam 5 mg PO QHS:PRN insomnia 
8. Rolling Walker
Diagnosis: postop weakness
Length of need: 3 months
Supply: 1
Refill: none

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
choledochal cyst and gallbladder mass
h/o Afib

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call Dr ___ office at ___ if you 
develop fever (temperature of 101 or greater), shaking chills, 
nausea, vomiting, jaundice, diarrhea, constipation, inability to 
tolerate food or medications, abdomen distension, you have 
swelling in your ankles,  the incision has fluid leaking, 
bleeding or redness around the incision site or any other 
concerning symptoms.

Keep incision covered if out in sun to prevent sunburn/scarring. 


No lifting more than 10 pounds. No straining

You may shower, allow water to run over the incision and pat the 
aresa dry. No lotion or powder near the incision.

No tub baths or swimming

Continue all home medications as you have been prescribed

 
Followup Instructions:
___